Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:4]([H:5])[C:6]#[C:7].[C:3]>>[C:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7],-6.9267965440999975
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[C:11][H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10],6.05328168594
[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]1[C:9]([H:10])([H:11])[H:12]>>[H:1][C:8]#[C:7][C:4]([C:3]#[C:2][C:9]([H:10])([H:11])[H:12])([H:5])[H:6],-1.69606062932
[C:1]#[C:2][O:3][C:4]([H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6](=[O:7])[H:8],4.41963247454
[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.004447281569998
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6],3.49671395953
[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-1.70246984278
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.39202923976
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:10]([H:11])[H:12].[C:6]([H:7])([H:8])([C:9])[H:13],3.59285172261
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],1.8671248698
[H:1][O:2][C:3][C@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.49293044142
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.27895242859
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],1.84096058486
[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.462013166991
[H:11].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.7989856432599998
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][H:7]>>[H:1][C:2]#[C:3][O:5][O:6][H:7].[H:4],2.2209972446
[C:1]#[C:2][O:3][H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],0.204426180329
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.87569389607
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1][C:2],5.16016119499
[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],4.98400809354
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-0.82034873389
[C:1].[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.9375649413
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[C:10]=[C:11]([H:12])[H:13],-1.4102666998
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:7],5.00955410199
[C:6]([H:7])=[C:8]([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-5.9740115242
[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][H:5],2.06537183967
[H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.54242519742
[H:1][C:2]#[C:3][C:5](=[C:4])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]1[C:3]2[C:4]1[C:5]2[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],0.0774926087506
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-6.14498214915
